US05736568
In a similar manner to the previous example, a solution of 2-hydroxy-5-methoxybenzal dehyde (25.0 g) in DMF (50 ml) was added to a stirred suspension of sodium hydride (6.84 g of a 60% dispersion in mineral oil) in dry DMF (125 ml) at ambient temperature under nitrogen with stirring. The mixture was heated at 70° C. for 2 hours and then cooled to ambient temperature and a solution of N-benzyl-2-chloro-N-methylethylamine in toluene (75 ml) was added [prepared from 48.5 g of the hydrochloride salt]. The oil obtained after work up was distilled under vacuum to give 2-[2-(N-benzyl-N-methylamino)ethoxy]-5-methoxybenzaldehyde as an oil. A sample of this oil which boiled at 202°-206° C. at 0.65 mbar was dissolved in ether and acidified with ethereal hydrogen chloride. The precipitate was collected by filtration, washed with ether to give 2-[2-(N-benzyl-N-methylamino)ethoxy]-5-methoxybenzaldehyde hydrochloride, m.p. 167°-169° C.

reactant | 2-hydroxy-5-methoxybenzal dehyde | 25.0 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | sodium hydride | [H-].[Na+]
reactant | N-benzyl-2-chloro-N-methylethylamine | C(C1=CC=CC=C1)N(C)CCCl | C10H14ClN
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(N-benzyl-N-methylamino)ethoxy]-5-methoxybenzaldehyde | C(C1=CC=CC=C1)N(C)CCOC1=C(C=O)C=C(C=C1)OC | C18H21NO3
